US07902252B2
2.21. Synthesis of 4-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (18)
The title compound was synthesized from methyl 4-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate and lithium hydroxide monohydrate (81 mg, 1.93 mmol) according to General Procedure 7. Silica gel was added, the solvent stripped off and the silica gel-imbedded material was purified by flash chromatography (0-80% EtOAc/Heptane) to give 4-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (18) as a light yellow solid (103.6 mg, 84%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.68-1.87 (m, 2H), 1.98-2.09 (m, 1H), 2.55-2.80 (m, 5H), 2.88-2.97 (m, 1H), 6.68 (s, 1H), 7.11-7.16 (m, 1H), 7.17-7.29 (m, 4H); LCMS-MS (ESI+) 256.0 (M+H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 4-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C(CC1=CC=CC=C1)C1CCC=2NC(=CC21)C(=O)OC | C17H19NO2
reactant | lithium hydroxide monohydrate | 1.93 mmol, 81 mg | O.[OH-].[Li+]
product | 4-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 103.6 mg, 84% | C(CC1=CC=CC=C1)C1CCC=2NC(=CC21)C(=O)O | C16H17NO2
